US05744488
b) 3-(4-Fluorophenyl)propanal-4-nitrophenylhydrazone
A solution of 3-(4-fluorophenyl)propanal (7.0 g) in ether (50 ml) was addedto a stirred suspension of 4-nitrophenylhydrazine (7.0 g) in ether (1 50 ml), followed by sufficient ethyl acetate to achieve a clear solution. Thesolution was filtered and evaporated and the residue was crystallised from ethyl acetate/hexane to give the title compound (5.48 g), m.p. 125°-127° C. Found: C,62.81; H,4.87; N,14.44. C15 H14FN3O2 requires: C,62.71; H,4.91; N,14.63%.

reactant | 3-(4-fluorophenyl)propanal | 7.0 g | FC1=CC=C(C=C1)CCC=O | C9H9FO
reactant | 4-nitrophenylhydrazine | 7.0 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-(4-Fluorophenyl)propanal-4-nitrophenylhydrazone | 5.48 g | [N+](=O)([O-])C1=CC=C(C=C1)NN=CCCC1=CC=C(C=C1)F | C15H14FN3O2
